* Extracted by KLayout with SG13G2 LVS runset on : 14/09/2026 22:11

.SUBCKT sg13g2_a31oi_2 VSS A1 Y A2 A3 B1 VDD
M$1 VSS A3 \$2 VSS sg13_lv_nmos L=0.13u W=1.48u AS=0.5287p AD=0.2886p PS=4.48u
+ PD=2.26u
M$3 VSS B1 Y VSS sg13_lv_nmos L=0.13u W=1.48u AS=0.5287p AD=0.2886p PS=4.48u
+ PD=2.26u
M$5 \$3 A1 Y VSS sg13_lv_nmos L=0.13u W=1.48u AS=0.3886p AD=0.2886p PS=3.3u
+ PD=2.26u
M$7 \$3 A2 \$2 VSS sg13_lv_nmos L=0.13u W=1.48u AS=0.2886p AD=0.3886p PS=2.26u
+ PD=3.3u
M$9 \$10 A3 Y VDD sg13_lv_pmos L=0.13u W=2.24u AS=0.5843p AD=0.4368p PS=4.44u
+ PD=3.02u
M$11 \$10 B1 VDD VDD sg13_lv_pmos L=0.13u W=2.24u AS=0.486p AD=0.6335p PS=3.43u
+ PD=4.85u
M$13 \$10 A1 Y VDD sg13_lv_pmos L=0.13u W=2.24u AS=0.5843p AD=0.4368p PS=4.44u
+ PD=3.02u
M$15 \$10 A2 Y VDD sg13_lv_pmos L=0.13u W=2.24u AS=0.4368p AD=0.5843p PS=3.02u
+ PD=4.44u
.ENDS sg13g2_a31oi_2
