* Extracted by KLayout with SG13G2 LVS runset on : 14/09/2026 22:14

.SUBCKT sg13g2_mux2_4 VSS X A0 A1 S VDD
M$1 VSS S \$7 VSS sg13_lv_nmos L=0.13u W=0.55u AS=0.18685p AD=0.1835p PS=1.54u
+ PD=1.79u
M$2 VSS S \$5 VSS sg13_lv_nmos L=0.13u W=0.74u AS=0.18685p AD=0.2443p PS=1.54u
+ PD=2.17u
M$3 \$3 A0 \$4 VSS sg13_lv_nmos L=0.13u W=0.74u AS=0.2443p AD=0.1443p PS=2.17u
+ PD=1.13u
M$4 \$4 A1 \$5 VSS sg13_lv_nmos L=0.13u W=0.74u AS=0.1443p AD=0.2443p PS=1.13u
+ PD=2.17u
M$5 VSS \$4 X VSS sg13_lv_nmos L=0.13u W=2.96u AS=0.9157p AD=0.5772p PS=7.56u
+ PD=4.52u
M$9 VSS \$7 \$3 VSS sg13_lv_nmos L=0.13u W=0.74u AS=0.1935p AD=0.2443p PS=1.54u
+ PD=2.17u
M$10 VDD \$4 X VDD sg13_lv_pmos L=0.13u W=4.48u AS=1.1612p AD=0.9678p PS=8.64u
+ PD=6.86u
M$14 VDD \$7 \$6 VDD sg13_lv_pmos L=0.13u W=1u AS=0.2634p AD=0.3275p PS=1.92u
+ PD=2.69u
M$15 \$12 S VDD VDD sg13_lv_pmos L=0.13u W=1u AS=0.3275p AD=0.2386p PS=2.69u
+ PD=1.8u
M$16 VDD S \$7 VDD sg13_lv_pmos L=0.13u W=0.84u AS=0.2386p AD=0.2763p PS=1.8u
+ PD=2.37u
M$17 \$12 A0 \$4 VDD sg13_lv_pmos L=0.13u W=1u AS=0.3275p AD=0.195p PS=2.69u
+ PD=1.39u
M$18 \$4 A1 \$6 VDD sg13_lv_pmos L=0.13u W=1u AS=0.195p AD=0.3275p PS=1.39u
+ PD=2.69u
.ENDS sg13g2_mux2_4
