* Extracted by KLayout with SG13G2 LVS runset on : 14/09/2026 22:10

.SUBCKT sg13g2_o22ai_1 VSS VDD A1 A2 Y B1 B2
M$1 VSS B2 \$8 VSS sg13_lv_nmos L=0.13u W=0.74u AS=0.3352p AD=0.2443p PS=2.94u
+ PD=2.17u
M$2 VSS B1 \$8 VSS sg13_lv_nmos L=0.13u W=0.74u AS=0.3352p AD=0.2443p PS=2.94u
+ PD=2.17u
M$3 Y A1 \$8 VSS sg13_lv_nmos L=0.13u W=0.74u AS=0.2443p AD=0.1443p PS=2.17u
+ PD=1.13u
M$4 \$8 A2 Y VSS sg13_lv_nmos L=0.13u W=0.74u AS=0.1443p AD=0.2443p PS=1.13u
+ PD=2.17u
M$5 Y A1 \$4 VDD sg13_lv_pmos L=0.13u W=1.12u AS=0.3659p AD=0.2184p PS=2.93u
+ PD=1.51u
M$6 \$4 A2 VDD VDD sg13_lv_pmos L=0.13u W=1.12u AS=0.2184p AD=0.4568p PS=1.51u
+ PD=3.7u
M$7 VDD B2 \$10 VDD sg13_lv_pmos L=0.13u W=1.12u AS=0.4568p AD=0.3659p PS=3.7u
+ PD=2.93u
M$8 Y B1 \$10 VDD sg13_lv_pmos L=0.13u W=1.12u AS=0.3659p AD=0.3659p PS=2.93u
+ PD=2.93u
.ENDS sg13g2_o22ai_1
